US07858613B2
Cyclohexylcarbamic acid 4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]thiepin-4-ylmethyl ester
To a solution of 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]thiepin-5-one (424 mg, 1.78 mmol) in 22 ml of tetrahydrofuran were added, at 0° C., triethylamine (0.27 ml, 1.96 mmol) and cyclohexyl isocyanate (1.0 ml, 7.84 mmol). The mixture was stirred at 80° C. for 18 hours, concentrated and purified by column chromatography on silica (eluent: 1:2 tert-butyl methyl ether/cyclohexane). The product was obtained in a yield of 366 mg (57%).

reactant | 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]thiepin-5-one | 1.78 mmol, 424 mg | OCC1(C(C2=C(SCC1)C=CC=C2)=O)CO | C12H14O3S
reactant | triethylamine | 1.96 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexyl isocyanate | 7.84 mmol, 1.0 ml | C1(CCCCC1)N=C=O | C7H11NO
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
product | Cyclohexylcarbamic acid 4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]thiepin-4-ylmethyl ester | OCC1(C(C2=C(SCC1)C=CC=C2)=O)COC(NC2CCCCC2)=O | C19H25NO4S
